US07649110B2
(+/−)-3-(4-[(4-methoxyphenyl)methoxy]phenyl)-3-cyano-propanoic acid (38).
To a stirred DMF (10 mL) solution of 2-[4-[(4-Methoxyphenyl)methoxy]phenyl]-acetonitrile (500 mg, 1.97 mmol) was added ethyl bromoacetate (330 μL, 2.96 mmol), followed by K2CO3 (820 mg, 5.9 mmol). The reaction mixture was stirred at room temperature for 2 h, poured into ice water (100 mL), filtered, and dried to a white solid. 20 mg of this white solid in 1:1 THF/1N NaOH in MeOH (4 mL) was stirred for 5 h. The reaction mixture was concentrated, diluted with water (10 mL), washed with EtOAc (5 mL×2). The aqueous layer was acidified with 3N HCl to pH ˜2, extracted with EtOAc (10 mL×2), dried over MgSO4, filtered, and concentrated to a white solid. MS ESI (neg.) m/e: 310.0 (M−1).

reactant | 2-[4-[(4-Methoxyphenyl)methoxy]phenyl]-acetonitrile | 1.97 mmol, 500 mg | COC1=CC=C(C=C1)COC1=CC=C(C=C1)CC#N | C16H15NO2
reactant | ethyl bromoacetate | 2.96 mmol, 330 μL | BrCC(=O)OCC | C4H7BrO2
reactant | K2CO3 | 5.9 mmol, 820 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (+/−)-3-(4-[(4-methoxyphenyl)methoxy]phenyl)-3-cyano-propanoic acid | COC1=CC=C(C=C1)COC1=CC=C(C=C1)C(CC(=O)O)C#N | C18H17NO4
